US07101886B2
Starting from 2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy phenylamine (300 mg, 0.75 mmol) and 3,3 dimethyl acryloyl chloride (87.7 μL, 0.79 mmol) and following the procedure as outlined in Example 1, 246 mg of 3-methyl-but-2-enoic acid {2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenyl}-amide was isolated as a white foam in 100% purity @ 254 nm; LCMS (APCI): 481 [M+H]+; mp 58° C.

reactant | 2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy phenylamine | 0.75 mmol, 300 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=C(C(=C2)OC)OC)N | C21H26N4O2S
reactant | 3,3 dimethyl acryloyl chloride | 0.79 mmol, 87.7 μL | CC(=CC(=O)Cl)C | C5H7ClO
product | 3-methyl-but-2-enoic acid {2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-4,5-dimethoxy-phenyl}-amide | 246 mg | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=C(C(=C2)OC)OC)NC(C=C(C)C)=O | C26H32N4O3S
